US08124617B2
N-({2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridin-6-yl}methyl)glycine
A solution of methyl N-({2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridin-6-yl}methyl)glycinate (15 mg) and 1N aqueous sodium hydroxide solution (0.1 ml) in methanol (2 ml) was stirred at room temperature for 18 hr. The reaction mixture was adjusted with 1N aqueous citric acid solution to pH 4. The precipitated crystals were collected by filtration and washed with diethyl ether to give the title compound (9.7 mg, yield 66%) as colorless crystals. melting point 182-184° C. purity 86%. M+H: 447. 1H NMR (DMSO-d6) δ: 1.48 (6H, d, J=6.0 Hz), 3.46 (2H, s), 3.98 (2H, s), 4.72-4.80 (1H, m), 5.17 (2H, s), 6.99-7.12 (2H, m), 7.29-7.51 (5H, m), 8.05 (1H, s), 8.19 (1H, s), 8.34 (1H, s).

reactant | methyl N-({2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridin-6-yl}methyl)glycinate | 15 mg | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC=C(C2)CNCC(=O)OC)N1)OC(C)C | C26H28N4O4
reactant | sodium hydroxide | 1N, 0.1 ml | [OH-].[Na+]
reactant | citric acid | 1N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 2 ml | CO | CH4O
product | N-({2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridin-6-yl}methyl)glycine | 9.7 mg, yield 66% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC=C(C2)CNCC(=O)O)N1)OC(C)C | C25H26N4O4
